US07435823B2
Step (a) Preparation of 6-Hydroxy-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide
A slurry of 6-hydroxy-naphthalene-1-carboxylic acid (0.2 g, 1.06 mmol) in 10.6 mL of SOCl2 and 1 drop of DMF was heated to 40° C. After 4 h, the solution was concentrated to dryness and placed under high vacuum overnight. The crude residue was dissolved in 3.5 mL of CH2Cl2. To the resulting solution was added DIEA (0.554 mL, 3.18 mmol), 4-chlorophenylamine (0.162 g, 1.27 mmol) and a catalytic amount of DMAP. The reaction was stirred under an argon atmosphere for 2 days. The reaction was diluted with CH2Cl2, washed with saturated aqueous NH4Cl, saturated aqueous NaHCO3, and brine. The organic layer was dried (Na2SO4), filtered and concentrated. The residue was passed through a medium-pressure silica gel column (solvent gradient: 94:6 CH2Cl2:MeOH; 95:5 CH2Cl2:MeOH; 90:10 CH2Cl2:MeOH) to afford the desired crude compound. The fractions were concentrated to dryness to afford a solid residue. The residue was triturated with CHCl3 to afford the desired compound as a pale yellow solid.

reactant | 6-hydroxy-naphthalene-1-carboxylic acid | 1.06 mmol, 0.2 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | DIEA | 3.18 mmol, 0.554 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chlorophenylamine | 1.27 mmol, 0.162 g | ClC1=CC=C(C=C1)N | C6H6ClN
solvent | SOCl2 | 10.6 mL | O=S(Cl)Cl | Cl2OS
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 6-Hydroxy-naphthalene-1-carboxylic acid(4-chloro-phenyl)-amide | ClC1=CC=C(C=C1)NC(=O)C1=CC=CC2=CC(=CC=C12)O | C17H12ClNO2
